US08003685B2
To a solution of 5-(3,3-dimethyl-but-1-ynyl)-3-(4-[1,2,3]triazol-1-yl-cyclohexylamino)-thiophene-2-carboxylic acid methyl ester (0.20 g, 0.50 mmol) in toluene (1 ml) is added a solution of trans-4-methylcyclohexyl carboxylic acid chloride 1 M (1.0 ml, 1.0 mmol) and pyridine (0.046 ml, 0.58 mmol). The mixture is stirred overnight at 105° C. and diluted with ethyl acetate. The organic layer is washed with NaHCO3 sat (2×) and brine. The organic layer is dried with sodium sulfate, filtered and concentrated under reduce pressure. The residue is purified by silica gel column chromatography (20% ethyl acetate/hexane to 100% ethyl acetate followed by 10% MeOH/ethyl acetate) to give 5-(3,3-dimethyl-but-1-ynyl)-3-[(trans-4-methyl-cyclohexanecarbonyl)-(4-[1,2,3]triazol-1-yl-cyclohexyl)-amino]-thiophene-2-carboxylic acid methyl ester.

reactant | 5-(3,3-dimethyl-but-1-ynyl)-3-(4-[1,2,3]triazol-1-yl-cyclohexylamino)-thiophene-2-carboxylic acid methyl ester | 0.50 mmol, 0.20 g | COC(=O)C=1SC(=CC1NC1CCC(CC1)N1N=NC=C1)C#CC(C)(C)C | C20H26N4O2S
reactant | trans-4-methylcyclohexyl carboxylic acid chloride | 1.0 mmol, 1 M, 1.0 ml | C[C@@H]1CC[C@H](CC1)C(=O)Cl | C8H13ClO
reactant | pyridine | 0.58 mmol, 0.046 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(3,3-dimethyl-but-1-ynyl)-3-[(trans-4-methyl-cyclohexanecarbonyl)-(4-[1,2,3]triazol-1-yl-cyclohexyl)-amino]-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1N(C1CCC(CC1)N1N=NC=C1)C(=O)[C@@H]1CC[C@H](CC1)C)C#CC(C)(C)C | C28H38N4O3S
